US05206240
Step D: Preparation of 1,4-Dihydro-7-methanesulfonamido-spiro[(3H)-2-benzopyran-3,4'-piperidine]hydrochloride
To a solution of 1,4-dihydro-1'-methyl-7-methanesulfonamido-spiro[(3H)-2-benzopyran-3,4'-piperidine] (0.575 g) and N,N,N',N'-tetramethyl-1,8-napthalenediamine (proton sponge) (0.6 g) in dichloroethane under nitrogen at 0° C. was added 1-chloroethyl chloroformate (0.613 ml). The mixture was stirred at reflux for 2 hours, cooled filtered through silca gel (20 g) and the product eluted with ethyl acetate. The eluate was concentrated and the residue dissolved in methanol (20 ml) and refluxed for 18 hours. The reaction was concentrated to a foam and crystallized from ethanol/hexanes yielding 0.548 g of product.

reactant | 1,4-dihydro-1'-methyl-7-methanesulfonamido-spiro[(3H)-2-benzopyran-3,4'-piperidine] | 0.575 g | CN1CCC2(CC1)OCC1=C(C2)C=CC(=C1)NS(=O)(=O)C | C15H22N2O3S
reactant | N,N,N',N'-tetramethyl-1,8-napthalenediamine | 0.6 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 0.613 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 1,4-Dihydro-7-methanesulfonamido-spiro[(3H)-2-benzopyran-3,4'-piperidine]hydrochloride | Cl.CS(=O)(=O)NC1=CC2=C(CC3(CCNCC3)OC2)C=C1 | InChI=1S/C14H20N2O3S.ClH/c1-20(17,18)16-13-3-2-11-9-14(4-6-15-7-5-14)19-10-12(11)8-13;/h2-3,8,15-16H,4-7,9-10H2,1H3;1H
